US06677368B2
To a mixture of 4-bromoindole (12.42 g, 63.3 mmol), and 3,5-difluorophenylboronic acid (10.0 g, 63.3 mmol) in THF (108 mL) were added Palladium catalyst Pd(PPh3)4 (2.2 g, 1.9 mmol) and the freshly prepared sodium hydroxide solution (7.6 g, 190 mmol in 89 mL water). The system was degassed and then charged with nitrogen. The degas procedure was repeated for three times. The mixture was stirred under nitrogen at 85° C. oil bath for overnight. TLC showed the completion of the coupling reaction. The mixture was cooled to room temperature, filtered through celite, diluted with ethyl acetate, and separated from water layer. The ethyl acetate solution was washed with brine, dried over Na2SO4, and concentrated. The crude product was purified by a silica gel column to provide 4-(3,5-difluoro-phenyl)-1H-indole.

reactant | 4-bromoindole | 63.3 mmol, 12.42 g | BrC1=C2C=CNC2=CC=C1 | C8H6BrN
reactant | 3,5-difluorophenylboronic acid | 63.3 mmol, 10.0 g | FC=1C=C(C=C(C1)F)B(O)O | C6H5BF2O2
reactant | sodium hydroxide | 190 mmol, 89 mL, 7.6 g | [OH-].[Na+]
solvent | THF | 108 mL | C1CCOC1 | C4H8O
catalyst | Palladium | 1.9 mmol, 2.2 g | [Pd] | Pd
product | 4-(3,5-difluoro-phenyl)-1H-indole | FC=1C=C(C=C(C1)F)C1=C2C=CNC2=CC=C1 | C14H9F2N
